US08012985B2
N,N′-di-benzyloxycarbonyl-S-methylisothiourea
2 ml (14.4 mol) of benzyl chloroformate are added dropwise, under vigorous stirring, to a solution of 1 g (3.60 mmol) of S-methylisothiourea sulphate in 40 ml of a diphasic mixture of dichloromethane/saturated aqueous sodium bicarbonate solution (1:1). Stirring is maintained at ambient temperature for 25 hours. After which, the aqueous phase is extracted 3 times with dichloromethane. The combined organic phases are then washed with water, then dried over sodium sulphate and evaporated under reduced pressure. The residue obtained is purified by chromatography on a silica column (DCM) in order to produce 1.06 g (82%) of product in the form of a yellow oil.

reactant | benzyl chloroformate | 14.4 mol, 2 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | S-methylisothiourea sulphate | 3.60 mmol, 1 g | S(=O)(=O)(O)O.CSC(N)=N
solvent | dichloromethane | ClCCl | CH2Cl2
product | N,N′-di-benzyloxycarbonyl-S-methylisothiourea | 1.06 g, 82% | C(C1=CC=CC=C1)OC(=O)NC(SC)=NC(=O)OCC1=CC=CC=C1 | C18H18N2O4S
